US07282501B2
Step E: 3-{2-{[(2,5-Dichloro-thiophene-3-carbonyl)-methyl-amino]-methyl}-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid
A solution of 3-{2-{[(2,5-dichloro-thiophene-3-carbonyl)-methyl-amino]-methyl}-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid tert butyl ester (50 mg, 0.079 mmol) in CH2Cl2 (2 mL) was treated with anisole (1.0 mL) then TFA (0.6 mL). The solution was stirred at ambient temperature 2 h, and more TFA (1.0 mL) was added. After 15 min, the reaction was concentrated and co-evaporated with CCl4 (3×). The residue was triturated with hexanes to yield a foam (43 mg, 95%). 1H NMR (400 MHz, CDCl3) δ 2.36 (s, 3H), 2.48 (t, 0.6H, J=7.8 Hz), 2.58 (t, 1.4H, J=7.8 Hz), 2.72 (t, 0.6H, J=7.8 Hz), 2.84 (s, 2H), 2.90 (t, 1.4H, J=7.8 Hz), 2.93 (s, 1H), 2.98 (brs, 2H), 4.17 (t, 2H, J=6.4 Hz), 4.47 (s, 0.6H), 4.71 (s, 1.4H), 6.61 (brs, 0.3H), 6.71-6.76 (m, 2H), 6.79 (s, 0.7H), 7.04 (d, 0.3H, J=8.3 Hz), 7.08 (d, 0.7H, J=8.3 Hz), 7.41-7.43 (m, 3H), 7.94 (brs, 2H).

reactant | 3-{2-{[(2,5-dichloro-thiophene-3-carbonyl)-methyl-amino]-methyl}-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid tert butyl ester | 0.079 mmol, 50 mg | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CN(C)C(=O)C1=C(SC(=C1)Cl)Cl)=O | C32H34Cl2N2O5S
reactant | anisole | 1.0 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | TFA | 0.6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 1.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-{2-{[(2,5-Dichloro-thiophene-3-carbonyl)-methyl-amino]-methyl}-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid | 43 mg, 95% | ClC=1SC(=CC1C(=O)N(C)CC1=C(C=CC(=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CCC(=O)O)Cl | C28H26Cl2N2O5S
